US03984459
c. 4-Methylpimelic acid monoethyl ester
145 g of crude 4-methylpimelic acid, 68 ml of absolute ethanol and 12 ml of concentrated sulfuric acid were refluxed for 5 hours. The mixture was poured onto ice and extracted several times. The combined ether solutions were extracted with saturated NaHCO3 until the development of CO2 was finished. The aqueous extracts were covered with a layer of ether and adjusted while stirring to pH 2 to 3 with diluted sulfuric acid. The ether layer was separated and the aqueous phase was saturated with (NH4)2SO4 and extracted three times with ether.

reactant | 4-methylpimelic acid | 145 g | CC(CCC(=O)O)CCC(=O)O | C8H14O4
reactant | sulfuric acid | 12 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 68 ml | C(C)O | C2H6O
product | 4-Methylpimelic acid monoethyl ester | C(C)OC(CCC(CCC(=O)O)C)=O | C10H18O4
